US07022717B2
Methanesulfonic acid 5-methanesulfonyloxy-3-(4-{[(2-nitro-benzenesulfonyl)-pyridin-2-ylmethyl-amino]-methyl}-benzyl)-penyl ester.
A solution of bis(3-nitrobenzenesulfonylaminopropyl)ether (190 mg, 0.38 mmol) and finely ground, freshly oven-dried cesium carbonate (320 mg, 1.14 mmol) in anhydrous DMF (60 mL) was heated to 80° C. Methanesulfonic acid, 5-methanesulfonyloxy-3-(4-{[(2-nitro-benzenesulfonyl)-pyridin-2-ylmethyl-amino]-methyl}-benzyl)-pentyl ester (250 mg, 0.38 mmol) in DMF (20 mL) was then added to the reaction over a 30 hour period via syringe pump. After complete addition, the reaction was stirred another 30 hours. The mixture was then cooled, diluted with 300 mL ethyl acetate and extracted repeatedly with water. The organic phase was then dried and concentrated, and the residue was purified by column chromatography on silica gel using 25% ethyl acetate in dichloromethane as eluant to afford the desired product (203 mg, 51%). 1H NMR (CDCl3) δ 1.47–1.71 (m, 9H), 2.42 (d, 2H, J=6.1 Hz), 3.15–3.32 (m, 12H), 4.53 (s, 2H), 4.55 (s, 2H), 6.94 (d, 2H, J=6.4 Hz), 7.03 (d, 2H, J=6.4 Hz), 7.05 (d, 1H, J=5.8 Hz), 7.52 (m, 4 H), 7.64 (m, 6 H), 7.91 (m, 5H), 8.44 (d, 1H, J=5.4 Hz).

reactant | bis(3-nitrobenzenesulfonylaminopropyl)ether | 0.38 mmol, 190 mg | [N+](=O)([O-])C(CCOCCC([N+](=O)[O-])NS(=O)(=O)C1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C18H22N4O9S2
reactant | cesium carbonate | 1.14 mmol, 320 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Methanesulfonic acid, 5-methanesulfonyloxy-3-(4-{[(2-nitro-benzenesulfonyl)-pyridin-2-ylmethyl-amino]-methyl}-benzyl)-pentyl ester | 0.38 mmol, 250 mg | CS(=O)(=O)OCCC(CCOS(=O)(=O)C)CC1=CC=C(C=C1)CN(CC1=NC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C27H33N3O10S3
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | Methanesulfonic acid 5-methanesulfonyloxy-3-(4-{[(2-nitro-benzenesulfonyl)-pyridin-2-ylmethyl-amino]-methyl}-benzyl)-penyl ester | 203 mg, 51% | CS(=O)(=O)OC=1C=C(C=C(C1)OS(=O)(=O)C)CC1=CC=C(C=C1)CN(CC1=NC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C28H27N3O10S3
